US08729078B2
1-[3-(6-tert-Butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-3-[4-(1-hydroxy-1-methyl-ethyl)-phenylamino]-1H-pyrazole-4-carboxylic acid amide
1-[3-(6-tert-Butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-2-formyl-phenyl]-3-[4-(1-hydroxy-1-methyl-ethyl)-phenylamino]-1H-pyrazole-4-carboxylic acid amide (34 mg, 0.06 mmol) was dissolved in a solution of 1:1 methanol and dichloromethane (15 ml). To this was added a solution of sodium borohydride (11 mg, 0.29 mmol) dissolved in water (0.25 ml), via drop-wise addition. After 10 minutes stirring the volatiles were stripped (rotary evaporator) and the remainder was taken up in dichloromethane (30 ml) and water (30 ml) and shaken in a separatory funnel. The organic phase was collected and the aqueous phase was back extracted with dichloromethane (2×25 ml). The organic extracts were combined, dried from magnesium sulfate, filtered and stripped. The crude was purified by silica gel chromatography (1 g, eluting with 7.5% methanol in dichloromethane) providing the desired product 1-[3-(6-tert-butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-3-[4-(1-hydroxy-1-methyl-ethyl)-phenylamino]-1H-pyrazole-4-carboxylic acid amide as an off-white powder (32 mg). LC/MS calcd for C32H33FN6O4 (m/e) 584.66, obsd 583 (M−H, ES−).

reactant | 1-[3-(6-tert-Butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-2-formyl-phenyl]-3-[4-(1-hydroxy-1-methyl-ethyl)-phenylamino]-1H-pyrazole-4-carboxylic acid amide | 0.06 mmol, 34 mg | C(C)(C)(C)C=1C=C2C=NN(C(C2=C(C1)F)=O)C=1C(=C(C=CC1)N1N=C(C(=C1)C(=O)N)NC1=CC=C(C=C1)C(C)(C)O)C=O | C32H31FN6O4
reactant | sodium borohydride | 0.29 mmol, 11 mg | [BH4-].[Na+]
solvent | methanol | CO | CH4O
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | water | 0.25 ml | O | H2O
product | 1-[3-(6-tert-butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-3-[4-(1-hydroxy-1-methyl-ethyl)-phenylamino]-1H-pyrazole-4-carboxylic acid amide | 32 mg | C(C)(C)(C)C=1C=C2C=NN(C(C2=C(C1)F)=O)C=1C(=C(C=CC1)N1N=C(C(=C1)C(=O)N)NC1=CC=C(C=C1)C(C)(C)O)CO | C32H33FN6O4
